US04590200
Sodium hydride (0.5 g of 50% dispersion in mineral oil) was added portionwise to a stirred solution of imidazole (0.68 g) in dry N,N-dimethylformamide (DMF) (30 ml) and the mixture was stirred at room temperature for 30 minutes. A solution of 2-chloromethyl-3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester (2.70 g) in dry N,N-dimethylformamide (5 ml) was added, the mixture was stirred for 2 hours and then evaporated. The residue was dissolved in ethyl acetate and the solution was washed well with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform/petrol (b.p. 40°-60° C.) (3:1) first gave some impurity followed by pure product. Evaporation of the product containing fractions gave a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80° C.) to give 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester (1.40 g), m.p. 126°-127° C.

reactant | Sodium hydride | 0.5 g | [H-].[Na+]
reactant | imidazole | 0.68 g | N1C=NC=C1 | C3H4N2
reactant | 2-chloromethyl-3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester | 2.70 g | C(C)OC(=O)C1=CC2=C(SC(=C2C)CCl)C=C1 | C13H13ClO2S
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-5-carboxylic acid ethyl ester | 1.40 g | C(C)OC(=O)C1=CC2=C(SC(=C2C)CC=2NC=CN2)C=C1 | C16H16N2O2S
